US05166203
Preparation of 2-benzoyloxymethylmorpholine hydrochloride
4-Benzyl-2-hydroxymethylmorpholine (prepared by the method disclosed in Synthetic Communication, Vol. 10, pages 59-73, 1980) (200 g) and triethylamine (122 g) are dissolved in chloroform (1.5 liter), and thereto is added dropwise benzoyl chloride (135 g) with stirring under ice cooling. The mixture is stirred at room temperature for 16 hours and thereafter to the mixture is added water. The chloroform layer is separated, washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous saline solution in this order, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue is dissolved in ethyl acetate (150 ml) and thereto is added 4N hydrogen chloride/ethyl acetate (250 ml) with stirring under ice cooling, and the precipitated crystals are separated by filtration, washed with ethyl acetate and acetone in this order to give the title compound (240 g) as colorless crystals.

reactant | 4-Benzyl-2-hydroxymethylmorpholine | C(C1=CC=CC=C1)N1CC(OCC1)CO | C12H17NO2
reactant | triethylamine | 122 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 135 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | chloroform | 1.5 liter | C(Cl)(Cl)Cl | CHCl3
product | 2-benzoyloxymethylmorpholine hydrochloride | 240 g | Cl.C(C1=CC=CC=C1)(=O)OCC1CNCCO1 | InChI=1S/C12H15NO3.ClH/c14-12(10-4-2-1-3-5-10)16-9-11-8-13-6-7-15-11;/h1-5,11,13H,6-9H2;1H
